US07423052B2
Description 3 (RS)-2-[5-(3-Fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-piperidine-1-carboxylic acid tert butyl ester
The title compound ((1.28 g) was prepared from 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (1.48 g), 5-(3-fluorophenyl)tetrazole (1.0 g) and dicyclohexylcarbodiimide (1.25 g) according to the method of description 1.

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 1.48 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 5-(3-fluorophenyl)tetrazole | 1.0 g | FC=1C=C(C=CC1)C1=NN=NN1 | C7H5FN4
reactant | dicyclohexylcarbodiimide | 1.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | (RS)-2-[5-(3-Fluoro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-piperidine-1-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CC=1OC(=NN1)C1=CC(=CC=C1)F | C19H24FN3O3
